US06713499B2
To a stirred solution of 1.40 g (5.20 mmol) {2-methoxy-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-thiourea in 35 ml chloroform was added dropwise 0.27 ml (5.27 mmol) bromine and the reaction mixture heated at reflux for 18 hours. The mixture was then cooled to room temperature, poured slowly onto sodium bicarbonate solution and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate) afforded 984 mg (71%) 4-methoxy-N7-(2-methoxy-ethyl)-N7-methyl-benzothiazole-2,7-diamine as an orange crystalline solid. ES-MS m/e (%): 268 (M+H+, 100).

reactant | {2-methoxy-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-thiourea | 5.20 mmol, 1.40 g | COC1=C(C=C(C=C1)N(C)CCOC)NC(=S)N | C12H19N3O2S
reactant | bromine | 5.27 mmol, 0.27 ml | BrBr | Br2
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-methoxy-N7-(2-methoxy-ethyl)-N7-methyl-benzothiazole-2,7-diamine | 984 mg, 71% | COC1=CC=C(C2=C1N=C(S2)N)N(C)CCOC | C12H17N3O2S
